US04871730
A solution of benzhydryl 7-formamido-3-methylenecepham-4-carboxylate (40.8 g) in methylene chloride (300 ml) and methanol (1.2 l) was cooled at -74° C. in a dry ice-acetone bath. A theoretical amount of ozone was blown through the solution at -74° C. for 10 minutes with stirring, and nitrogen gas was blown through the solution at -74° C. for 10 minutes. Dimethyl sulfide (20 ml) was added to the solution at -74° C. The mixture was slowly warmed to ambient temperature and evaporated in vacuo. The residue was subjected to column chromatography on silica gel and eluted with ethyl acetate. The eluent was evaporated in vacuo to give benzhydryl 7-formamido-3-hydroxy-3-cephem-4-carboxylate (34.4 g).

reactant | benzhydryl 7-formamido-3-methylenecepham-4-carboxylate | 40.8 g | C(=O)NC1[C@@H]2N(C(C(CS2)=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C22H20N2O4S
reactant | ozone | O=[O+][O-] | O3
reactant | Dimethyl sulfide | 20 ml | CSC | C2H6S
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 1.2 l | CO | CH4O
product | benzhydryl 7-formamido-3-hydroxy-3-cephem-4-carboxylate | 34.4 g | C(=O)NC1[C@@H]2N(C(=C(CS2)O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C21H18N2O5S
